US07816557B2
To a mixture of 4-[1-(4′-tertbutyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoic acid (120 mg) in methylene chloride (3 mL) are added triethyl amine (0.12 mL, 0.87 mmol), DMAP (5 mg), 3-Amino-2(R)-hydroxy-propionic acid methyl ester (67.3 mg, 0.43 mmol) and EDCI (166 mg, 0.87 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving 3-{4-[1-(4′-tert-butyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-2(R)-hydroxy-propionic acid methyl ester (60 mg).

reactant | 4-[1-(4′-tertbutyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoic acid | 120 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(CC(C)C)C1=CC=C(C(=O)O)C=C1 | C28H32O3
reactant | triethyl amine | 0.87 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Amino-2(R)-hydroxy-propionic acid methyl ester | 0.43 mmol, 67.3 mg | COC([C@@H](CN)O)=O | C4H9NO3
reactant | EDCI | 0.87 mmol, 166 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{4-[1-(4′-tert-butyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-2(R)-hydroxy-propionic acid methyl ester | 60 mg | COC([C@@H](CNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O)O)=O | C32H39NO5
